US05281598
To a stirred suspension of phenylpropionic acid (120 g) in toluene (120 ml) and pyridine (6 ml) was added thionyl chloride (115 ml), vigorous gassing ensued and the temperature fell rapidly to 5° C. Reaction was complete in 1 h and the solvent was evaporated in vacuo. The residue was redissolved in toluene (120 ml), the solution was filtered to remove pyridine hydrochloride and the filtrate was evaporated in vacuo to give 166 g of phenylpropionyl chloride.

reactant | phenylpropionic acid | 120 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | thionyl chloride | 115 ml | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | phenylpropionyl chloride | 166 g | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
